US08212045B2
(R)-N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(2,2,4-trimethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine (65 mg, 0.128 mmol) was dissolved in EtOH (3 mL) and 1M HCl (0.3 mL) was added. The mixture was stirred at ambient temperature for 24 hours. Additional 1M HCl (0.3 mL) was added and the mixture was stirred overnight. The mixture was partitioned between saturated aqueous sodium bicarbonate and CH2Cl2, and the organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified over silica gel (15% methanol in EtOAc) to afford (R)-2-(5-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)propane-1,2-diol hydrochloride (42.6 mg, 0.0844 mmol, 66.0% yield) as a white solid after HCl salt formation. Mass Spectrum (apci) m/z=469.1 (M+H—HCl).

reactant | (R)-N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(2,2,4-trimethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine | 0.128 mmol, 65 mg | CC1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@]1(OC(OC1)(C)C)C | C24H24N6O3S2
reactant | HCl | 1M, 0.3 mL | Cl | ClH
reactant | HCl | 1M, 0.3 mL | Cl | ClH
solvent | EtOH | 3 mL | CCO | C2H6O
product | (R)-2-(5-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)propane-1,2-diol hydrochloride | 0.0844 mmol, 42.6 mg, 66.0% yield | Cl.CC1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@](CO)(C)O | InChI=1S/C21H20N6O3S2.ClH/c1-13-15(6-5-9-22-13)30-16-10-14(31-17-7-3-4-8-23-17)11-24-18(16)25-20-26-19(27-32-20)21(2,29)12-28;/h3-11,28-29H,12H2,1-2H3,(H,24,25,26,27);1H/t21-;/m0./s1
